US05665718
57.3 g (164 mmol) of ethyl (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-carboxylate, 40 ml of ethanol, 60 ml of water and 51.5 ml (206 mmol) of 4N sodium hydroxide solution were heated to reflux on a steam bath for 30 min. The alcohol was evaporated on a rotary evaporator. The aqueous phase remaining behind was washed twice with methylene chloride and acidified to pH 3-4 with 51.5 ml (206 mmol) of 4N hydrochloric acid. The suspension obtained was cooled and filtered, and the filter residue was washed with a small amount of ice-water and dried. There were obtained 47.92 g (91%) of (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid of m.p. 225°-226°.

reactant | ethyl (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-carboxylate | 164 mmol, 57.3 g | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CC1)=O)F | C16H13ClFN3O3
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 206 mmol, 4N, 51.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 206 mmol, 4N, 51.5 ml | Cl | ClH
solvent | water | 60 ml | O | H2O
product | (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 47.92 g, 91% | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)O)CC1)=O)F | C14H9ClFN3O3
